US06787544B2
In a nitrogen atmosphere, 0.09 g of 5-fluoro-3-methoxy-2-pyrazinecarboxamide is suspended in 3.6 mL of acetonitrile. Then, 0.16 g of sodium iodide and 0.11 g of chlorotrimethylsilane are successively added to the suspension, which is then stirred at ambient temperature for 20 hours. Then, 2 mL of water and 40 mL of chloroform are added to the reaction mixture and separated into layers. The organic layer is separated, washed successively with 5% (w/v) aqueous solution of magnesium thiosulfate and saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. Then, the solvent is distilled off under reduced pressure. The residue thus obtained is purified by column chromatography (eluent: chloroform) to obtain 0.01 g of 5-fluoro-3-hydroxy-2-pyrazinecarboxamide.

reactant | 5-fluoro-3-methoxy-2-pyrazinecarboxamide | 0.09 g | FC=1N=C(C(=NC1)C(=O)N)OC | C6H6FN3O2
reactant | sodium iodide | 0.16 g | [I-].[Na+]
reactant | chlorotrimethylsilane | 0.11 g | Cl[Si](C)(C)C | C3H9ClSi
reactant | water | 2 mL | O | H2O
solvent | acetonitrile | 3.6 mL | C(C)#N | C2H3N
solvent | chloroform | 40 mL | C(Cl)(Cl)Cl | CHCl3
product | 5-fluoro-3-hydroxy-2-pyrazinecarboxamide | 0.01 g | FC=1N=C(C(=NC1)C(=O)N)O | C5H4FN3O2
